US03947584
If the 2-nitrobutane in Example 1 is replaced by the corresponding quantity of 2-nitropentane, using the same procedure as in Example 1, the intermediate product obtained is 3-(2'-methyl-2'-nitropentyl)-indole; melting point 78°-80°C (from petroleum ether). Reduction yielded 3-(2'-methyl-2'-aminopentyl)-indole, which after recrystallisation from petroleum ether yields needle-shaped crystals of a melting point of 73.5° to 74.5°C.

reactant | 2-nitrobutane | [N+](=O)([O-])C(C)CC | C4H9NO2
reactant | 2-nitropentane | [N+](=O)([O-])C(C)CCC | C5H11NO2
reactant | 3-(2'-methyl-2'-nitropentyl)-indole | CC(CC1=CNC2=CC=CC=C12)(CCC)[N+](=O)[O-] | C14H18N2O2
product | 3-(2'-methyl-2'-aminopentyl)-indole | CC(CC1=CNC2=CC=CC=C12)(CCC)N | C14H20N2
